US04087460
2,6-Dinitro-N-methoxy-α,α,α-trifluoro-p-toluidine
To a solution prepared from 27.0 g. (0.1 mole) of 4-chloro-3,5-dinitrobenzotrifluoride in 200 ml. of ethanol there was added 25.25 g. (0.25 mole) of triethylamine, and 12.5 g. (0.15 mole) of methoxyamine hydrochloride. Upon the addition of the methoxyamine hydrochloride, the temperature of the reaction mixture rose to about 50° C. The reaction mixture was allowed to stir for about 11/2 hours and the reaction product mixture was worked up by diluting with ethyl acetate, washing several times with dilute hydrochloric acid and water, and drying the organic layer over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate concentrated on the steam bath to leave a residue. The residue was allowed to chill over the weekend in the refrigerator and crystals separated. The crystalline product was filtered off. It had a melting point of about 135°-137° C., weighed 21.0 g., and was identified by NMR spectrum and elemental analyses as 2,6-dinitro-N-methoxy-α,α,α-trifluoro-p-toluidine.

reactant | 4-chloro-3,5-dinitrobenzotrifluoride | 0.1 mole | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
reactant | ethanol | C(C)O | C2H6O
reactant | triethylamine | 0.25 mole | C(C)N(CC)CC | C6H15N
reactant | methoxyamine hydrochloride | 0.15 mole | Cl.CON
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-Dinitro-N-methoxy-α,α,α-trifluoro-p-toluidine | [N+](=O)([O-])C1=C(NOC)C(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3N3O5
